US07687535B2
i) 2-methyl-5-nitro-1H-indole-1-acetic acid ethyl ester
2-Methyl-5-nitro-1H-indole (5.3 g) was dissolved in dimethyl formamide (20 ml) and to it added sodium hydride (1.2 g) for the mixture to be stirred for 1 hour. Ethyl bromoacetate (6.8 g) was added all at once and a precipitate started to form. The mixture was quenched with 1% aqueous acetic acid and the precipitate collected by filtration and washed thoroughly with water, triturated with diethyl ether and dried under vacuum to give pure sub-title product (6.2 g).

reactant | 2-Methyl-5-nitro-1H-indole | 5.3 g | CC=1NC2=CC=C(C=C2C1)[N+](=O)[O-] | C9H8N2O2
reactant | sodium hydride | 1.2 g | [H-].[Na+]
reactant | Ethyl bromoacetate | 6.8 g | BrCC(=O)OCC | C4H7BrO2
solvent | dimethyl formamide | 20 ml | CN(C=O)C | C3H7NO
product | 2-methyl-5-nitro-1H-indole-1-acetic acid ethyl ester | 6.2 g | C(C)OC(CN1C(=CC2=CC(=CC=C12)[N+](=O)[O-])C)=O | C13H14N2O4
